US08802713B2
0.6 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxy-5-methylpyrazole was dissolved in 4 mL of tetrahydrofuran, and 0.23 g of 3,3,3-trifluoropropanol, 0.75 g of triphenylphosphine and 0.71 g of 1,1′-(azodicarbonyl)dipiperidine were added, followed by stirring at room temperature for 12hours. After completion of the reaction, the reaction solution was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (ethyl acetate:hexane=1:4) to obtain 0.61 g of 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-methyl-3-(3,3,3-trifluoropropoxy)pyrazole.

reactant | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxy-5-methylpyrazole | 0.6 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1C)O | C13H12F4N2OS
reactant | 3,3,3-trifluoropropanol | 0.23 g | FC(CCO)(F)F | C3H5F3O
reactant | triphenylphosphine | 0.75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.71 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-5-methyl-3-(3,3,3-trifluoropropoxy)pyrazole | 0.61 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1C)OCCC(F)(F)F | C16H15F7N2OS
